US06399629B1
(D) 1-(Piperazin-2-ylcarbonyl)-trans-4-((R)-2-Hydroxy-4-Phenylbutyrylamino)-L-Proline 3-Quinolylamide Trihydrochloride
A solution of 4 N hydrochloric acid in 1,4-dioxane (5 mL) was added to 1,4-di-(N-tert-butoxycarbonyl)piperazin-2-ylcarbonyl)-trans-4-((R)-2-hydroxy-4-phenylbutyrylamino)-L-proline 3-quinolylamide (C, 76 mg) at 0° C., and methanol (2 mL) was added to dissolve insoluble materials. After stirring for 1.5 hr, the reaction mixture was evaporated and coevaporated three times with 1,4-dioxane and ether in vacuo to give pale yellow solids. The solids were washed with ether to afford the title compound (64 mg) as a colorless solid: 1H NMR (400 MHz, D2O) δ 1.92-2.05 (m, 2H), 2.34-2.48 (m, 1H), 2.67(t, 2H), 3.24-4.89 (m, 13H), 7.15-7.32 (m, 5H), 7.83 (t, 1H), 7.96 (t, 1H), 8.09-8.16 (m, 2H), 8.94 (d, 1H), and 9.27 (d, 1H); mass spectrum (FAB+) m/e 531 (M+1); Anal. Calcd. for C29H34N6O4.3HCl.3H2O: C, 50.06; H, 6.26; N, 12.08. Found: C, 50.56; H, 6.34; N, 1.48.

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | trans-4-((R)-2-hydroxy-4-phenylbutyrylamino)-L-proline 3-quinolylamide | 76 mg | N1=CC(=CC2=CC=CC=C12)NC([C@H]1NC[C@@H](C1)NC([C@@H](CCC1=CC=CC=C1)O)=O)=O | C24H26N4O3
reactant | methanol | 2 mL | CO | CH4O
reactant | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(Piperazin-2-ylcarbonyl)-trans-4-((R)-2-Hydroxy-4-Phenylbutyrylamino)-L-Proline 3-Quinolylamide Trihydrochloride | 64 mg | Cl.Cl.Cl.N1=CC(=CC2=CC=CC=C12)NC([C@H]1N(C[C@@H](C1)NC([C@@H](CCC1=CC=CC=C1)O)=O)C(=O)C1NCCNC1)=O | InChI=1S/C29H34N6O4.3ClH/c36-26(11-10-19-6-2-1-3-7-19)28(38)34-22-15-25(35(18-22)29(39)24-17-30-12-13-31-24)27(37)33-21-14-20-8-4-5-9-23(20)32-16-21;;;/h1-9,14,16,22,24-26,30-31,36H,10-13,15,17-18H2,(H,33,37)(H,34,38);3*1H/t22-,24?,25+,26-;;;/m1.../s1
